US06245796B1
A 1.60 g of potassium hydroxide was added to an ethylene glycol (20 ml) solution containing 0.51 g of [2-(1H-furo[2,3-g]indazol-1-yl)ethyl]acetamide, and the mixture was stirred at 170° C. for 2 hours. The reaction solution was cooled, diluted with water and then extracted with ethyl acetate. The organic layers were combined, washed with water and brine and then dried over anhydrous magnesium sulfate. After removal of the drying agent by filtration, the filtrate was concentrated and the thus obtained residue was purified by a silica gel column chromatography (eluent: chloroform/methanol =95/5) to give 2-(1H-furo[2,3-g]indazol-1-yl)ethylamine. The thus obtained 2-(1H-furo[2,3-g]indazol-1-yl)ethylamine was dissolved in a mixture of ethanol and ethyl acetate, 4 N hydrochloric acid ethyl acetate solution was added to the resulting solution, and the resulting crystals were collected by filtration and dried under a reduced pressure to give 0.06 g of 2-(1H-furo[2,3-g]indazol-1-yl)ethylamine hydrochloride.

reactant | 2-(1H-furo[2,3-g]indazol-1-yl)ethylamine | N1(N=CC2=CC=C3C(=C12)C=CO3)CCN | C11H11N3O
reactant | hydrochloric acid ethyl acetate | 4 N | C(C)OC(C)=O.Cl
solvent | ethanol | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(1H-furo[2,3-g]indazol-1-yl)ethylamine hydrochloride | 0.06 g | Cl.N1(N=CC2=CC=C3C(=C12)C=CO3)CCN | InChI=1S/C11H11N3O.ClH/c12-4-5-14-11-8(7-13-14)1-2-10-9(11)3-6-15-10;/h1-3,6-7H,4-5,12H2;1H
